US07569727B2
Preparation of 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-2-methoxy-ethanone O-methyl-oxime of formula
296 mg of 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-2-methoxy-ethanone, 56 mg of O-methylhydroxylamine hydrochloride and 55 mg of sodium acetate are stirred in 4 ml of methanol at room temperature for 24 hours. The reaction mixture is poured into water and extracted with ethyl acetate. After concentration of the organic phases and purification over silica gel, the title compound is obtained in the form of an E/Z mixture. 1H-NMR (CDCl3) 300 MHz: 2.30 (m, 2H), 3.32+3.46 (s+s, 3H), 3.93+3.99 (s+s, 3H), 4.18 (t, 2H), 4.29 (m, 2H), 4.53-4.61 (m, 4H), 6.11 (t, 1H), 6.83 (s, 2H), 6.91 (d, 2H), 7.62 (d, 2H)

reactant | 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-2-methoxy-ethanone | 296 mg | ClC1=C(OCCCOC2=CC=C(C=C2)C(COC)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H20Cl4O5
reactant | O-methylhydroxylamine hydrochloride | 56 mg | Cl.CON
reactant | sodium acetate | 55 mg | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-2-methoxy-ethanone O-methyl-oxime | CON=C(COC)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C22H23Cl4NO5
